US09416127B2
Step b) 2-(4-(Trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylic acid
To a solution of ethyl 2-(4-(trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylate (127 mg, 422 μmol, Eq: 1.00) in THF (5 ml) and MeOH (1.00 ml) was added LiOH 1M (843 μl, 843 μmol, Eq: 2). The mixture was stirred overnight. To the residue was added water and 1 N HCl (pH:1), this aqueous phase was extracted two times with ethyl acetate, the resulting organic layers were combined and washed with brine, then dried over MgSO4, filtered and concentrated to give the desired compound (94 mg, 81.6%) as a white solid.

reactant | ethyl 2-(4-(trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylate | 422 μmol, 127 mg | FC(OC1=CC=C(C=C1)N1N=CC(=N1)C(=O)OCC)(F)F | C12H10F3N3O3
reactant | LiOH | 843 μmol, 1M, 843 μl | [Li+].[OH-]
reactant | water | O | H2O
reactant | HCl | 1 N, pH:1 | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1.00 ml | CO | CH4O
product | 2-(4-(Trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylic acid | 94 mg, 81.6% | FC(OC1=CC=C(C=C1)N1N=CC(=N1)C(=O)O)(F)F | C10H6F3N3O3
